US08710060B2
(11A) Tert-butyl (2S)-2-methyl-4-(4-{methyl[(4-oxocyclohexyl)carbonyl]amino}benzyl)piperazine-1-carboxylate
4-Oxocyclohexanecarboxylic acid (90 mg, 0.633 mmol) was dissolved in dichloromethane (5 mL), and oxalyl chloride (265 μL, 3.16 mmol) and a catalytic amount of dimethylformamide were added thereto at 0° C., and then, the resulting mixture was stirred under a nitrogen atmosphere at room temperature for 30 minutes. The residue obtained by distilling off the solvent in the reaction solution under reduced pressure was dissolved in dichloromethane (15 mL), and tert-butyl (2S)-2-methyl-4-[2-methyl-4-(methylamino)benzyl]piperazine-1-carboxylate (100 mg, 0.313 mmol), which is a known compound, and triethylamine (130 μL, 0.939 mmol) were added thereto at 0° C., and then, the resulting mixture was stirred under a nitrogen atmosphere at room temperature for 1 hour. To the reaction solution, water was added at room temperature, and the organic matter was extracted with dichloromethane. The organic layer was washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous magnesium sulfate and filtered. Then, the solvent was distilled off under reduced pressure, whereby a crude product was obtained. The obtained crude product was purified by silica gel column chromatography (hexane:ethyl acetate=100:0 to 0:100 (v/v)), whereby the target compound was obtained as a white solid substance (44.5 mg, yield: 32%).

reactant | 4-Oxocyclohexanecarboxylic acid | 0.633 mmol, 90 mg | O=C1CCC(CC1)C(=O)O | C7H10O3
reactant | oxalyl chloride | 3.16 mmol, 265 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tert-butyl (2S)-2-methyl-4-[2-methyl-4-(methylamino)benzyl]piperazine-1-carboxylate | 0.313 mmol, 100 mg | C[C@@H]1N(CCN(C1)CC1=C(C=C(C=C1)NC)C)C(=O)OC(C)(C)C | C19H31N3O2
reactant | triethylamine | 0.939 mmol, 130 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Tert-butyl (2S)-2-methyl-4-(4-{methyl[(4-oxocyclohexyl)carbonyl]amino}benzyl)piperazine-1-carboxylate | yield: 32% | C[C@@H]1N(CCN(C1)CC1=CC=C(C=C1)N(C(=O)C1CCC(CC1)=O)C)C(=O)OC(C)(C)C | C25H37N3O4
